US07547710B2
A mixture of tert-butyl {[6-(cyanomethoxy)-2-isobutyl-4-(4-methylphenyl)quinolin-3-yl]methyl}carbamate (0.46 g, 1.0 mmol), hydroxyammonium chloride (0.21 g, 3.0 mmol), sodium carbonate (0.43 g, 4.0 mmol) and ethanol (10 ml) was stirred at 70° C. for 17 hrs. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was dissolved in tetrahydrofuran (10 ml). 1,1′-Carbonylbis-1H-imidazole (0.32 g, 2.0 mmol) was added and the mixture was stirred at 70° C. for 24 hrs. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give tert-butyl ({2-isobutyl-4-(4-methylphenyl)-6-[(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)methoxy]quinolin-3-yl}methyl)carbamate (0.18 g, yield 35%) as pale-yellow crystals.

reactant | tert-butyl {[6-(cyanomethoxy)-2-isobutyl-4-(4-methylphenyl)quinolin-3-yl]methyl}carbamate | 1.0 mmol, 0.46 g | C(#N)COC=1C=C2C(=C(C(=NC2=CC1)CC(C)C)CNC(OC(C)(C)C)=O)C1=CC=C(C=C1)C | C28H33N3O3
reactant | hydroxyammonium chloride | 3.0 mmol, 0.21 g | [Cl-].O[NH3+]
reactant | sodium carbonate | 4.0 mmol, 0.43 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1,1′-Carbonylbis-1H-imidazole | 2.0 mmol, 0.32 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | Water | O | H2O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | tert-butyl ({2-isobutyl-4-(4-methylphenyl)-6-[(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)methoxy]quinolin-3-yl}methyl)carbamate | 0.18 g, yield 35% | C(C(C)C)C1=NC2=CC=C(C=C2C(=C1CNC(OC(C)(C)C)=O)C1=CC=C(C=C1)C)OCC1=NOC(N1)=O | C29H34N4O5
